US08420695B2
5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(2H-1,2,3-triazole-2-ylmethyl)phenyl]amino}thiophene-3-carboxamide was prepared according to the general procedure in Example 1 using 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide (100 mg, 0.320 mmol) and 2-(4-bromobenzyl)-2H-1,2,3-triazole (76 mg, 0.320 mmol) as the starting materials.

reactant | 2-amino-5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]thiophene-3-carboxamide | 0.320 mmol, 100 mg | NC=1SC(=CC1C(=O)N)C1=C(C=C(C=C1F)C(C)(C)O)F | C14H14F2N2O2S
reactant | 2-(4-bromobenzyl)-2H-1,2,3-triazole | 0.320 mmol, 76 mg | BrC1=CC=C(CN2N=CC=N2)C=C1 | C9H8BrN3
product | 5-[2,6-difluoro-4-(1-hydroxy-1-methylethyl)phenyl]-2-{[4-(2H-1,2,3-triazole-2-ylmethyl)phenyl]amino}thiophene-3-carboxamide | FC1=C(C(=CC(=C1)C(C)(C)O)F)C1=CC(=C(S1)NC1=CC=C(C=C1)CN1N=CC=N1)C(=O)N | C23H21F2N5O2S
